US08378095B2
To a solution of 2,6-difluorobenzoic acid (1.00 g, 6.3 mmol) in EtOH and water (5:1, 60 mL) was added 1N aqueous sodium hydroxide solution (6.33 mL, 6.3 mmol). The reaction mixture was stirred for 10 minutes at room temperature and then solvents were removed in vacuo to yield sodium 2,6-difluorobenzoate (1.22 g, 6.3 mmol, quantitative) as an off white solid. 1H NMR (DMSO) δ 6.89 (2H, m), 7.15 (1H, m).

reactant | 2,6-difluorobenzoic acid | 6.3 mmol, 1.00 g | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | sodium hydroxide | 6.3 mmol, 1N, 6.33 mL | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
solvent | water | 60 mL | O | H2O
product | sodium 2,6-difluorobenzoate | 6.3 mmol, 1.22 g | FC1=C(C(=O)[O-])C(=CC=C1)F.[Na+] | InChI=1S/C7H4F2O2.Na/c8-4-2-1-3-5(9)6(4)7(10)11;/h1-3H,(H,10,11);/q;+1/p-1
